US08017646B2
A A suspension of 10% palladium on charcoal (25 mg) in a solution of trans-1-{3-[3-(4-benzyloxy-3-methoxyphenyl)allyloxy]propyl}piperidine (340 mg containing 28% wt dimethylsufoxide) in methanol (2.5 mL) is stirred overnight at room temperature under an atmosphere of dihydrogene. The suspension is filtered over a clarcel pad and the filtrate concentrated under reduced pressure. The product is dissolved in diethyl oxide and a solution of oxalic acid (61 mg) in acetone is added. The precipitate is filtered, washed with diethyl oxide and dried under vacuum to afford 150 mg of 1-{3-[3-(4-hydroxy-3-methoxyphenyl)propoxy]propyl}-piperidine, oxalate as a white solid melting at 110-111° C.

reactant | trans-1-{3-[3-(4-benzyloxy-3-methoxyphenyl)allyloxy]propyl}piperidine | 340 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/COCCCN1CCCCC1)OC | C25H33NO3
catalyst | palladium on charcoal | 25 mg | [Pd] | Pd
solvent | methanol | 2.5 mL | CO | CH4O
product | 1-{3-[3-(4-hydroxy-3-methoxyphenyl)propoxy]propyl}-piperidine | 150 mg | OC1=C(C=C(C=C1)CCCOCCCN1CCCCC1)OC | C18H29NO3
